US09079902B2
A vial was charged with tert-butyl 3-bromo-6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (531.8 mg, 0.871 mmol), (2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)boronic acid (306 mg, 1.132 mmol), potassium phosphate (555 mg, 2.61 mmol), and Pd(AmPhos)2Cl2 (30.8 mg, 0.044 mmol). 1,4-Dioxane (2178 μl) and water (726 μl) were added in sequence. The vial was sealed and heated in a microwave reactor for 30 min at 90° C. The organic layer was removed via pipette, and the aq. layer was extracted with EtOAc (2×). The combined organic extracts were concentrated in vacuo. The crude product was purified by chromatography on silica gel (0 to 50% EtOAc/Heptane) to give tert-butyl 6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (469 mg, 0.621 mmol, 71.2% yield) as a white solid. m/z (ESI) 756.2 (M+H)+.

reactant | tert-butyl 3-bromo-6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.871 mmol, 531.8 mg | BrC1=CN(C2=NC(=CC=C21)S(N(C2=NC=NS2)CC2=C(C=C(C=C2)OC)OC)(=O)=O)C(=O)OC(C)(C)C | C23H24BrN5O6S2
reactant | (2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)boronic acid | 1.132 mmol, 306 mg | CN1N=CC=C1C1=C(C=CC(=C1)C(F)(F)F)B(O)O | C11H10BF3N2O2
reactant | potassium phosphate | 2.61 mmol, 555 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-Dioxane | 2178 μl | O1CCOCC1 | C4H8O2
solvent | water | 726 μl | O | H2O
product | tert-butyl 6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.621 mmol, 469 mg, 71.2% yield | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=N2)N(C=C3C3=C(C=C(C=C3)C(F)(F)F)C3=CC=NN3C)C(=O)OC(C)(C)C)C3=NC=NS3)C=CC(=C1)OC | C34H32F3N7O6S2
